US07816557B2
To a solution of 4-(1-hydroxy-propyl)-benzoic acid methyl ester (300 mg, 1.55 mmol) in toluene (10 mL) is added 1, 1′-(azodicarbonyl)dipiperidine (ADDP, 585 mg, 2.32 mmol) at 0° C., followed by the addition of tributylphosphine (0.58 mL, 2.32 mmol) and 4′-trifluoromethyl-biphenyl-4-ol (442 mg, 1.86 mmol). The reaction mixture is warmed up to room temperature and stirred overnight. The mixture is loaded on silica gel, eluted with hexanes with a gradient from 0% of ethyl acetate to 50% of ethyl acetate giving 4-[1-(4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-benzoic acid methyl ester. The ester product is taken into ethanol (2 mL), treated with sodium hydroxide (5N aqueous, 1 mL) for 3 hours at room temperature. The mixture is concentrated, diluted with ethyl acetate, acidified with 5 N HCl (1.1 mL), extracted with ethyl acetate. The organic layers are dried and concentrated giving 4-[1-(4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-benzoic acid (570 mg).

reactant | 4-(1-hydroxy-propyl)-benzoic acid methyl ester | 1.55 mmol, 300 mg | COC(C1=CC=C(C=C1)C(CC)O)=O | C11H14O3
reactant | 1′-(azodicarbonyl)dipiperidine | 2.32 mmol, 585 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 2.32 mmol, 0.58 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4′-trifluoromethyl-biphenyl-4-ol | 1.86 mmol, 442 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)O)(F)F | C13H9F3O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C24H21F3O3
